Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4],0.81759747268
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[O:3],0.7716224911399999
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-4.79118325577
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:3],4.96952454102
[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.82603730292
[C:5](#[C:11][H:12])[H:13].[H:1][C:2]([C:3]#[C:6][C:7]([H:8])([H:9])[H:10])([H:4])[H:14]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.27682035093
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])#[C:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9],-0.32012424963
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-9.02190237114
[C:1]=[C:2]([O:3][C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[O:3]=[C:4][O:5][H:6],0.41934829398
[H:18].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C@:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.58379260809
[C:7]([H:8])[O:9][O:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][O:10][H:11],-5.8849689131
[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],4.18724022917
[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])=[C:12]1>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])=[C:12],0.575252587991
[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.56548831071
[C:1][C:2]([H:3])([H:4])[C:9](=[C:10][H:11])[H:12].[C:5]=[C:7]([H:6])[H:8]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12],-4.1485314021800015
[C:3]#[C:4][H:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.3285139125200005
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],2.3224704717200004
[C:10]([H:11])([H:12])=[C:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]=[C:14]([H:15])[H:16],-3.56412027812
[C:5][O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-3.43669160816
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([O:4][H:5])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.279695662219998
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.856742941316
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:7].[O:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],4.86772490215
[C:7][O:8][H:9].[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7]/[O:8][H:9],-1.56946847366
[H:10].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-2.03505115912
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.93751182858
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C@@:4]1([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],-1.31758986371
[H:1][C:2](=[C:3][H:4])[C:9](=[C:8]=[C:5]([H:6])[H:7])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]1[C:10]([H:11])([H:12])[H:13],-1.1667893764
